US07488789B2
(2) Synthesis of (3-tert-butyl-5-methy-cyclopentadienyl)(fluorenyl)di(3-trifluoromethyl-phenyl)methane
In a 200 ml three-necked flask equipped with a magnetic stirrer chip and three-way cock thoroughly purged with nitrogen, 1.44 g of fluorene (8.69 mmol) was dissolved in 60 ml of dehydrated diethylether in a nitrogen atmosphere. To the solution, 5.8 ml of n-butyl lithium/hexane solution (1.58M: 9.16 mmol) was gradually added dropwise in an ice bath and stirred at room temperature over night. To the reaction solution, 4.15 g of 3-tert-butyl-1-methyl-6,6-di(3-trifluoromethyl-phenyl)fulvene (9.50 mmol) was added and stirred under reflux for several days. The reaction mixture was gradually added dropwise to 30 ml of a hydrochloric acid aqueous solution set (1N) in an ice bath, and stirred at room temperature briefly. Therein, diethyl ether was added to separate an organic phase. The organic phase was washed with distilled water and saturated brine. The organic phase was dried with anhydrous magnesium sulfate, thereafter the drying agent was filtered off and the solvent was distilled off from the filtrate under reduced pressure to give a dark red solid. The solid was purified with a column chromatography using 220 g of silica gel (developing solvent: n-hexane) and the developing solvent was distilled off under reduced pressure. Thereafter, the remaining product was re-crystallized using hexane and dried under reduced pressure, and thereby the aimed compound was obtained in an amount of 1.69 g (2.72 mmol) as a white solid (yield: 31%).

reactant | fluorene | 8.69 mmol, 1.44 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | n-butyl lithium hexane | 9.16 mmol, 1.58M, 5.8 ml | C(CCC)[Li].CCCCCC
reactant | 3-tert-butyl-1-methyl-6,6-di(3-trifluoromethyl-phenyl)fulvene | 9.50 mmol, 4.15 g | C(C)(C)(C)C=1C=C(C(C1)=C(C1=CC(=CC=C1)C(F)(F)F)C1=CC(=CC=C1)C(F)(F)F)C | C25H22F6
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | diethylether | 60 ml | C(C)OCC | C4H10O
product | (3-tert-butyl-5-methy-cyclopentadienyl)(fluorenyl)di(3-trifluoromethyl-phenyl)methane | C(C)(C)(C)C1=CC(C(=C1)C)C(C1=CC(=CC=C1)C(F)(F)F)(C1=CC(=CC=C1)C(F)(F)F)C1=CC=CC=2C3=CC=CC=C3CC12 | C38H32F6
